US08378104B2
Step B: 4-iodo-furo[2,3-c]pyridin-7-yl-di-tert-butoxycarbonylamine
To a solution of 4-iodo-furo[2,3-c]pyridin-7-ylamine (1.7 g, 6.54 mmol) in DCM (50 mL) was added di-tert-butyldicarbonate (4.3 g, 19.6 mmol) in DCM (50 mL) over a period of 15 min followed by DMAP (100 mg). The mixture was stirred at RT overnight. Water (50 mL) was added. The organic fraction was washed with water (2×20 mL), dried over sodium sulfate, filtered, and concentrated. Purification of the residue by column chromatography (10% ethyl acetate:hexanes) afforded 2.3 g (77%) of the title compound as a light brown solid. 1H NMR (300 MHz, CDCl3): δ 1.39 (s, 18 H), 6.76 (d, J=1.2 Hz, 1H), 7.8 (d, J=1.2 Hz, 1H), 8.51 (s, 1H).

reactant | 4-iodo-furo[2,3-c]pyridin-7-ylamine | 6.54 mmol, 1.7 g | IC1=C2C(=C(N=C1)N)OC=C2 | C7H5IN2O
reactant | di-tert-butyldicarbonate | 19.6 mmol, 4.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 50 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-iodo-furo[2,3-c]pyridin-7-yl-di-tert-butoxycarbonylamine | 2.3 g, 77% | IC1=C2C(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC=C2 | C17H21IN2O5
